US04789674
Analogously to the procedure described in Example 2, from 4.8 g (0.015 mol) of 1,1',5,5'-tetrahydro-4-hydroxy-2,2'-dioxo-[3,4'-bi-2H-pyrrole]-1,1'-diacetic acid dimethyl ester and 25 ml of piperidine there is obtained 1,1',5,5'-tetrahydro-4-hydroxy-2,2'-dioxo-[3,4'-bi-2H-pyrrole]-1,1'-diacetic acid dipiperidide in the form of pale yellow microcrystals having a melting point of 150°-155° (decomposition).

reactant | 1,1',5,5'-tetrahydro-4-hydroxy-2,2'-dioxo-[3,4'-bi-2H-pyrrole]-1,1'-diacetic acid dimethyl ester | 0.015 mol, 4.8 g | COC(CN1C(C(=C(C1)O)C1=CC(N(C1)CC(=O)OC)=O)=O)=O | C14H16N2O7
reactant | piperidine | 25 ml | N1CCCCC1 | C5H11N
product | 1,1',5,5'-tetrahydro-4-hydroxy-2,2'-dioxo-[3,4'-bi-2H-pyrrole]-1,1'-diacetic acid dipiperidide | OC1=C(C(N(C1)CC(=O)N1CCCCC1)=O)C1=CC(N(C1)CC(=O)N1CCCCC1)=O | C22H30N4O5
